US07723345B2
To Pd(PPh3)4 (2.1 g, 1.823 mmol) was added 3-fluorophenylmagnesium bromide (55 mls, 1.0 M in THF, 55 mmol) at 0° C. over 15 minutes. The ice bath was removed and the mixture was stirred for 30 minutes. 1-(4-Bromophenyl)-2,2,2-trifluoroethanol (4.65 g, 18.23 mmol) in THF (50 mls) was added over 10 minutes. The mixture was heated to reflux for 3 hours and was shown complete by LC (Sunfire column, TFA). The mixture was cooled, quenched with H2O, rotary evaporated to remove most of the THF, and extracted 3 times with CH2Cl2. The organics were combined washed with brine, dried over MgSO4, and concentrated. Chromatography (SiO2, CH2Cl2) gave 4.64 g of 2,2,2-trifluoro-1-(3′-fluorobiphenyl-4-yl)ethanol. Yield 94%.

reactant | 3-fluorophenylmagnesium bromide | 55 mmol, 1.0 M, 55 mls | FC=1C=C(C=CC1)[Mg]Br
reactant | 1-(4-Bromophenyl)-2,2,2-trifluoroethanol | 18.23 mmol, 4.65 g | BrC1=CC=C(C=C1)C(C(F)(F)F)O | C8H6BrF3O
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF | 50 mls | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 1.823 mmol, 2.1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,2,2-trifluoro-1-(3′-fluorobiphenyl-4-yl)ethanol | 4.64 g, Yield 94% | FC(C(O)C1=CC=C(C=C1)C1=CC(=CC=C1)F)(F)F | C14H10F4O
